US09260376B2
Synthesis of 4-{[(1′S,2′S)-1′-hydroxy-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}benzamide (20)
To a solution of 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid (100 mg, 0.26 mmol) in DMSO (5 mL) was added Boc anhydride (69 mg, 0.31 mmol) followed by pyridine (24 mg, 0.26 mmol) and stirred at room temperature for 5 min. Ammonium bicarbonate (62 mg, 0.78 mmol) was added and stirred for additional 1 h. Reaction mixture was poured into water (25 mL) and extracted with ethyl acetate (3×25 mL). The organic layer was washed with brine (25 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by CombiFlash using 20% ethyl acetate in chloroform as an eluent to yield 57 mg (57%) of the title compound as an off white solid.

reactant | 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid | 0.26 mmol, 100 mg | O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)O)C=C1 | C26H22O3
reactant | Boc anhydride | 0.31 mmol, 69 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.26 mmol, 24 mg | N1=CC=CC=C1 | C5H5N
reactant | Ammonium bicarbonate | 0.78 mmol, 62 mg | C([O-])(O)=O.[NH4+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 25 mL | O | H2O
product | 4-{[(1′S,2′S)-1′-hydroxy-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}benzamide | 57 mg, 57% | O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)N)C=C1 | C26H23NO2
